### PR TITLE
[Merged by Bors] - feat: multiplication on the right preserves left invariant measures

### PR DESCRIPTION
**Pull request by atarnoam**
The image of a left invariant measure under right addition is left invariant, and if the measure was a Haar measure it is
stays a Haar measure.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 1]
```diff
@@ -246,6 +247,26 @@ end MeasurableMul
...
+"The image of a left invariant measure under right addition is left invariant."]
+theorem isMulLeftInvariant_rmul [IsMulLeftInvariant μ] (g : G) :
+    IsMulLeftInvariant (map (· * g) μ) := by
+  refine' ⟨fun h => _⟩
+  rw [map_map (measurable_const_mul _) (measurable_mul_const _)]
+  conv_rhs => rw [← map_mul_left_eq_self μ h]
+  rw [map_map (measurable_mul_const _) (measurable_const_mul _)]
+  congr 2
+  ext y
+  simp only [comp_apply, mul_assoc h y g]
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Group/Measure.lean:266]: This should be possible to prove as a special case of `isMulLeftInvariant_smul` with `MulOpposite`; do we already have that `SMul` version?

Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/Measure.lean:266]: I am not sure about this? The measure I refer to is `A -> \mu(A g^-1)`, and to my understanding, `smul` is the measure `A -> c \mu(A)`.

Comment (eric-wieser) [reply Mathlib/MeasureTheory/Group/Measure.lean:266]: The statement I'm thinking of is something like
```
theorem SMulInvariantMeasure_smul
    {α β} [MeasurableSpace α] [MeasurableSpace β] [SMul α G] [SMul β G] [SMulCommClass α β G]
    [MeasurableSMul α G] [MeasurableSMul β G] [SMulInvariantMeasure β G μ] (a : α) :
    SMulInvariantMeasure β G (map (a • ·) μ) :=```

Comment (eric-wieser) [reply Mathlib/MeasureTheory/Group/Measure.lean:266]: @urkud is probably more qualified here than me

Comment (Komyyy) [reply Mathlib/MeasureTheory/Group/Measure.lean:266]:
```suggestion
  refine' ⟨fun h => _⟩
  rw [map_map (measurable_const_mul _) (measurable_mul_const _)]
  conv_rhs =>
    rw [← map_mul_left_eq_self μ h, map_map (measurable_mul_const _) (measurable_const_mul _)]
  congr 2 with y
  simp only [comp_apply, mul_assoc h y g]
```

Comment (Komyyy) [reply Mathlib/MeasureTheory/Group/Measure.lean:266]:
```suggestion
  refine' ⟨fun h => _⟩
  rw [map_map (measurable_const_mul _) (measurable_mul_const _)]
  conv_rhs =>
    rw [← map_mul_left_eq_self μ h, map_map (measurable_mul_const _) (measurable_const_mul _)]
  congr 2 with y
  simp only [comp_apply, mul_assoc h y g]
```

**Review by Komyyy — CHANGES_REQUESTED** [review]

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 2]
```diff
@@ -246,6 +247,26 @@ end MeasurableMul
...
+-/
+@[to_additive isAddLeftInvariant_radd
+"The image of a left invariant measure under right addition is left invariant."]
+theorem isMulLeftInvariant_rmul [IsMulLeftInvariant μ] (g : G) :
+    IsMulLeftInvariant (map (· * g) μ) := by
+  refine' ⟨fun h => _⟩
+  rw [map_map (measurable_const_mul _) (measurable_mul_const _)]
+  conv_rhs => rw [← map_mul_left_eq_self μ h]
+  rw [map_map (measurable_mul_const _) (measurable_const_mul _)]
+  congr 2
```
Comment (Komyyy) [inline Mathlib/MeasureTheory/Group/Measure.lean:264]:
```suggestion
  conv_rhs =>
    rw [← map_mul_left_eq_self μ h, map_map (measurable_mul_const _) (measurable_const_mul _)]
  congr 2 with y
```

**Review by Komyyy — CHANGES_REQUESTED** [review]

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 3]
```diff
@@ -246,6 +247,26 @@ end MeasurableMul
...
+  ext y
```
Comment (Komyyy) [inline Mathlib/MeasureTheory/Group/Measure.lean:265]:
```suggestion
  conv_rhs =>
    rw [← map_mul_left_eq_self μ h, map_map (measurable_mul_const _) (measurable_const_mul _)]
  congr 2 with y
```

**Review by Komyyy — DISMISSED** [review]

File: Mathlib/MeasureTheory/Group/Measure.lean (hunk 1 above)
Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/Measure.lean]: I see. I think the even more general case is the following. If M, N are G-modules, M equipped with a G-invariant measure `\mu` and `f: M \to N` is a homomorphism, then `f_* \mu` is invariant.

Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/Measure.lean]: I'll write it out and get this as a special case.

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 4]
```diff
@@ -246,6 +248,27 @@ end MeasurableMul
...
+      let rmul_g := SMulCommClass.toMulActionHom G G (MulOpposite.op g)
+      have rmul_g_eq : ↑rmul_g = (· * g)
+      · ext x
+        simp only [SMulCommClass.toMulActionHom_apply, MulOpposite.smul_eq_mul_unop,
+          MulOpposite.unop_op]
+      have smul_inv := SMulInvariantMeasure_map μ rmul_g (measurable_mul_const g)
+      rw [rmul_g_eq] at smul_inv
+      rw [←forall_measure_preimage_mul_iff]
+      intro h s hS
+      exact smul_inv.measure_preimage_smul h hS
```
Comment (kbuzzard) [inline Mathlib/MeasureTheory/Group/Measure.lean:268]: Can you remove the `hS` from both the `intro` and `exact`? Sometimes these things cancel out.

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 5]
```diff
@@ -761,6 +784,21 @@ theorem isHaarMeasure_map [BorelSpace G] [TopologicalGroup G] {H : Type _} [Grou
...
+  : IsHaarMeasure (Measure.map (· * g) μ) :=
+{
+  toIsMulLeftInvariant := isMulLeftInvariant_rmul g
+  lt_top_of_isCompact := by
+    intro K hK
+    rw [map_apply (measurable_mul_const _) hK.measurableSet]
+    apply IsCompact.measure_lt_top _
+    rwa [← Homeomorph.coe_mulRight g, Homeomorph.isCompact_preimage _]
+  toIsOpenPosMeasure := by
+    exact (continuous_mul_right g).isOpenPosMeasure_map (mul_right_surjective g)
```
Comment (kbuzzard) [inline Mathlib/MeasureTheory/Group/Measure.lean:799]: Do the `by` and `exact` cancel out? One means "go from term mode to tactic mode" and the other means "go from tactic mode to term mode".

**Review by kbuzzard — COMMENTED** [review]
Looks pretty good to me but I'm not an expert in this part of the library. I left a couple of minor comments. Thanks for the PR!

File: Mathlib/MeasureTheory/Group/Measure.lean (hunk 4 above)
Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/Measure.lean:268]: No :(

File: Mathlib/MeasureTheory/Group/Measure.lean (hunk 5 above)
Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/Measure.lean]: Yep :)

**Comment by atarnoam** [comment]
Hey, it's been two weeks since the last review @eric-wieser @Komyyy. Mind giving the PR another look?

File: Mathlib/Algebra/Hom/GroupAction.lean [hunk 6]
```diff
@@ -194,6 +198,18 @@ def SMulCommClass.toMulActionHom {M} (N α : Type _) [SMul M α] [SMul N α] [SM
...
 
+namespace SMulCommClass
+
+variable {M} (N α : Type _) [SMul M α] [SMul N α] [SMulCommClass M N α]
+
+@[simp]
+theorem toMulActionHom_coe (c : M) : ⇑(toMulActionHom N α c) = (c • ·) := rfl
+
+@[simp]
+theorem toMulActionHom_apply (c : M) (a : α) : toMulActionHom N α c a = c • a := rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/Hom/GroupAction.lean:209]: Doesn't the `simps` above already generate this lemma?

File: Mathlib/Algebra/Hom/GroupAction.lean [hunk 7]
```diff
@@ -118,6 +118,10 @@ protected theorem map_smul (f : X →[M'] Y) (m : M') (x : X) : f (m • x) = m
   map_smul f m x
 #align mul_action_hom.map_smul MulActionHom.map_smul
 
+theorem comp_smul {f : X →[M'] Y} {m : M'} : f ∘ (m • ·) = (m • ·) ∘ f := by
+  ext
+  simp only [Function.comp_apply, map_smul]
+
```
Comment (eric-wieser) [inline Mathlib/Algebra/Hom/GroupAction.lean:124]: Can you state this for `SmulHomClass` instead?

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 8]
```diff
@@ -761,6 +784,20 @@ theorem isHaarMeasure_map [BorelSpace G] [TopologicalGroup G] {H : Type _} [Grou
...
+{
+  toIsMulLeftInvariant := isMulLeftInvariant_rmul g
+  lt_top_of_isCompact := by
+    intro K hK
+    rw [map_apply (measurable_mul_const _) hK.measurableSet]
+    apply IsCompact.measure_lt_top _
+    rwa [← Homeomorph.coe_mulRight g, Homeomorph.isCompact_preimage _]
+  toIsOpenPosMeasure := (continuous_mul_right g).isOpenPosMeasure_map (mul_right_surjective g)
+}
+
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Group/Measure.lean:800]: I think this style is preferred:
```suggestion
theorem isHaarMeasure_rmul [BorelSpace G] [TopologicalGroup G] [T2Space G] (g : G) :
    IsHaarMeasure (Measure.map (· * g) μ) where
  toIsMulLeftInvariant := isMulLeftInvariant_rmul g
  lt_top_of_isCompact K hK := by
    rw [map_apply (measurable_mul_const _) hK.measurableSet]
    apply IsCompact.measure_lt_top _
    rwa [← Homeomorph.coe_mulRight g, Homeomorph.isCompact_preimage _]
  toIsOpenPosMeasure := (continuous_mul_right g).isOpenPosMeasure_map (mul_right_surjective g)
```

File: Mathlib/Algebra/Hom/GroupAction.lean (hunk 7 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Hom/GroupAction.lean:124]: Actually, I'll push the fix now

File: Mathlib/Algebra/Hom/GroupAction.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Hom/GroupAction.lean:212]: #6343; it generates it, but it has the wrong name.

**Review by Komyyy — APPROVED** [review]

File: Mathlib/Algebra/Hom/GroupAction.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Hom/GroupAction.lean:212]: CI is failing, I think for this reason.

File: Mathlib/MeasureTheory/Group/Action.lean [hunk 9]
```diff
@@ -103,6 +104,28 @@ theorem map_smul : map (c • ·) μ = μ :=
...
+
+theorem SMulInvariantMeasure_map {F : Type _} [SMul M α] [SMul M β] [SMulHomClass F M α β]
+    [MeasurableSMul M β]
+    (μ : Measure α) [SMulInvariantMeasure M α μ] (f : F) (hf: Measurable f) :
+    SMulInvariantMeasure M β (map f μ) := by
+  refine' ⟨fun m S hS => _⟩
+  calc
+    map f μ ((m • ·) ⁻¹' S) = μ (f ⁻¹' ((m • ·) ⁻¹' S)) := map_apply hf (MeasurableSet.preimage
+      hS (measurable_const_smul _))
+    _ = μ (((m • ·) ∘ (f : α →[M] β)) ⁻¹' S) := by rw [@preimage_comp]; rfl
```
Comment (atarnoam) [inline Mathlib/MeasureTheory/Group/Action.lean:120]: @eric-wieser Hey, If you would look at the PR one last time it would be great!
In particular, if you have an idea as to how to avoid the annoying ; rfl here it would be much appreciated!

Comment (eric-wieser) [reply Mathlib/MeasureTheory/Group/Action.lean]: I attempted a fix, but will need to wait for CI again to look further.

Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/Action.lean]: Looks like it passed, thanks!

**Comment by atarnoam** [comment]
bors merge

File: Mathlib/Algebra/Hom/GroupAction.lean
Comment (eric-wieser) [inline Mathlib/Algebra/Hom/GroupAction.lean:1]: I've split these results to #6491; they're no longer useful in this PR.

File: Mathlib/MeasureTheory/Group/Action.lean [hunk 10]
```diff
@@ -103,6 +104,36 @@ theorem map_smul : map (c • ·) μ = μ :=
...
+
+universe uM uN uα uβ
+variable {M : Type uM} {N : Type uN}  {α : Type uα} {β : Type uβ}
+  [MeasurableSpace M] [MeasurableSpace N] [MeasurableSpace α] [MeasurableSpace β]
+
+@[to_additive]
+theorem SMulInvariantMeasure_map [SMul M α] [SMul M β]
+    [MeasurableSMul M β]
+    (μ : Measure α) [SMulInvariantMeasure M α μ] (f : α → β)
+    (hsmul : ∀ (m : M) a, f (m • a) = m • f a) (hf : Measurable f) :
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Group/Action.lean:117]: I ended up dropping `SMulHomClass` here as it didn't work with `to_additive`.

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 11]
```diff
@@ -246,6 +248,27 @@ end MeasurableMul
 
 end Mul
 
+section Semigroup
+
+variable [Semigroup G] [MeasurableMul G]
+
+/-- The image of a left invariant measure under scalar multiplication is left invariant. -/
+@[to_additive]
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Group/Measure.lean:256]: For each of these additive versions, can you write a docstring about "scalar addition"?

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 12]
```diff
@@ -761,6 +784,18 @@ theorem isHaarMeasure_map [BorelSpace G] [TopologicalGroup G] {H : Type _} [Grou
 #align measure_theory.measure.is_haar_measure_map MeasureTheory.Measure.isHaarMeasure_map
 #align measure_theory.measure.is_add_haar_measure_map MeasureTheory.Measure.isAddHaarMeasure_map
 
+/-- The image of a Haar measure under right multiplication is again
+a Haar measure. -/
+@[to_additive isHaarMeasure_radd]
+theorem isHaarMeasure_rmul [BorelSpace G] [TopologicalGroup G] [T2Space G] (g : G) :
+    IsHaarMeasure (Measure.map (· * g) μ) where
+  toIsMulLeftInvariant := isMulLeftInvariant_rmul g
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Group/Measure.lean:792]: This one should generalize to something like
```suggestion
theorem isHaarMeasure_smul [BorelSpace G] [TopologicalGroup G] [T2Space G] (a : α) :
    IsHaarMeasure (Measure.map (a • · : G → G)  μ) where
  toIsMulLeftInvariant := isMulLeftInvariant_smul a
```
though you will have to add some assumption on `α`. You should then be able to prove `isHaarMeasure_rmul` in a single line like I did with `isMulLeftInvariant_rmul`

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 13]
```diff
@@ -246,6 +248,27 @@ end MeasurableMul
...
+theorem isMulLeftInvariant_map_smul
+    {α} [SMul α G] [SMulCommClass α G G] [MeasurableSpace α] [MeasurableSMul α G]
+    [IsMulLeftInvariant μ] (a : α) :
+    IsMulLeftInvariant (map (a • · : G → G) μ) :=
+  (forall_measure_preimage_mul_iff _).1 <| fun x _ hs =>
+    (SMulInvariantMeasure_map_smul μ a).measure_preimage_smul x hs
+
+/-- The image of a left invariant measure under right multiplication is left invariant. -/
+@[to_additive isMulLeftInvariant_radd]
+theorem isMulLeftInvariant_rmul [IsMulLeftInvariant μ] (g : G) :
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Group/Measure.lean:266]: Should this be an `instance`?

Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/Measure.lean:266]: The other similar theorems around here aren't instances, so I am not sure

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 14]
```diff
@@ -784,17 +784,33 @@ theorem isHaarMeasure_map [BorelSpace G] [TopologicalGroup G] {H : Type _} [Grou
 #align measure_theory.measure.is_haar_measure_map MeasureTheory.Measure.isHaarMeasure_map
 #align measure_theory.measure.is_add_haar_measure_map MeasureTheory.Measure.isAddHaarMeasure_map
 
+/-- The image of a Haar measure under map of scalar multiplication is again a Haar measure. -/
+@[to_additive isHaarMeasure_map_radd
+"The image of a Haar measure under map of scalar addition is again a Haar measure"]
+theorem isHaarMeasure_map_smul {α} [BorelSpace G] [TopologicalGroup G] [T2Space G] [SMul α G]
+    [SMulCommClass α G G] [MeasurableSpace α] [MeasurableSMul α G] (a : α)
+    (ha : Continuous (a • · : G → G)) (ha_surj : Surjective (a • · : G → G))
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Group/Measure.lean:792]: `ha` is a `ContinuousConstSMul` typeclass

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 15]
```diff
@@ -761,6 +784,32 @@ theorem isHaarMeasure_map [BorelSpace G] [TopologicalGroup G] {H : Type _} [Grou
 #align measure_theory.measure.is_haar_measure_map MeasureTheory.Measure.isHaarMeasure_map
 #align measure_theory.measure.is_add_haar_measure_map MeasureTheory.Measure.isAddHaarMeasure_map
 
+/-- The image of a Haar measure under map of scalar multiplication is again a Haar measure. -/
+@[to_additive isHaarMeasure_map_radd
+"The image of a Haar measure under map of scalar addition is again a Haar measure"]
+theorem isHaarMeasure_map_smul {α} [BorelSpace G] [TopologicalGroup G] [T2Space G] [SMul α G]
+    [SMulCommClass α G G] [MeasurableSpace α] [MeasurableSMul α G] [ContinuousConstSMul α G] (a : α)
+    (ha_surj : Surjective (a • · : G → G)) (ha_prop : Tendsto (a • ·) (cocompact G) (cocompact G)):
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Group/Measure.lean:792]: I'd be tempted to make this slightly less general but easier to use:
```suggestion
theorem isHaarMeasure_map_smul {α} [Group G] [BorelSpace G] [TopologicalGroup G] [T2Space G] [MulAction α G]
    [SMulCommClass α G G] [MeasurableSpace α] [MeasurableSMul α G] [ContinuousConstSMul α G] (a : α) :
```
I believe you can then use `Homeomorph.smul` instead of `Homeomorph.mulRight`.

Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/Measure.lean:792]: How about asking (a • ·) to be a homeomorphism?

Comment (eric-wieser) [reply Mathlib/MeasureTheory/Group/Measure.lean:792]: I suspect that's not a useful generalization; if that's a homomorphism then you can pretty much always interpret `a` as an element of `Units α` and then my `Group` version applies.

Comment (eric-wieser) [reply Mathlib/MeasureTheory/Group/Measure.lean:792]: Maybe @urkud has an opinion here?

Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/Measure.lean]: I added it, could you check the PR again? @eric-wieser

Comment (ADedecker) [reply Mathlib/MeasureTheory/Group/Measure.lean]: I think having that for a group action is perfectly fine.

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 16]
```diff
@@ -246,6 +248,27 @@ end MeasurableMul
...
+variable [Semigroup G] [MeasurableMul G]
+
+/-- The image of a left invariant measure under scalar multiplication is left invariant. -/
+@[to_additive "The image of a left invariant measure under scalar addition is left invariant."]
+theorem isMulLeftInvariant_map_smul
+    {α} [SMul α G] [SMulCommClass α G G] [MeasurableSpace α] [MeasurableSMul α G]
+    [IsMulLeftInvariant μ] (a : α) :
+    IsMulLeftInvariant (map (a • · : G → G) μ) :=
+  (forall_measure_preimage_mul_iff _).1 <| fun x _ hs =>
+    (SMulInvariantMeasure_map_smul μ a).measure_preimage_smul x hs
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Group/Measure.lean:262]: Could you also add the following version and deduce that right invariant measures are preserved by left multiplication?
```
theorem isMulRightInvariant_map_smul
    {α} [SMul α G] [SMulCommClass α Gᵐᵒᵖ G] [MeasurableSpace α] [MeasurableSMul α G]
    [IsMulRightInvariant μ] (a : α) :
    IsMulRightInvariant (map (a • · : G → G) μ) :=
  (forall_measure_preimage_mul_right_iff _).1 <| fun x _ hs =>
    (SMulInvariantMeasure_map_smul μ a).measure_preimage_smul (MulOpposite.op x) hs
```

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 17]
```diff
@@ -246,6 +248,27 @@ end MeasurableMul
 
 end Mul
 
+section Semigroup
+
+variable [Semigroup G] [MeasurableMul G]
+
+/-- The image of a left invariant measure under scalar multiplication is left invariant. -/
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Group/Measure.lean:255]: Although we use `SMul`, the name "scalar multiplication is really misleading here". 
```suggestion
/-- The image of a left invariant measure under a left action is left invariant, assuming 
that the action preserves multiplication. -/
```
Similar for the additive version and all other docstrings.

File: Mathlib/MeasureTheory/Group/Measure.lean (hunk 16 above)
Comment (ADedecker) [reply Mathlib/MeasureTheory/Group/Measure.lean:262]: Actually @eric-wieser I'm not sure how useful these intermediate "mul and smul" versions are: the general version is `SMulInvariantMeasure_map_smul`, and the one which are really useful in practice are the purely multiplicative one. If someone needs an intermediate case they can just use the most general version pretty easily, right?

In any case, this general version definitely allows us to prove that right invariant measures are preserved by left multiplication, so we should add that.

File: Mathlib/MeasureTheory/Group/Action.lean [hunk 18]
```diff
@@ -103,6 +104,36 @@ theorem map_smul : map (c • ·) μ = μ :=
...
 end MeasurableSMul
 
+section SMulHomClass
+
+universe uM uN uα uβ
+variable {M : Type uM} {N : Type uN}  {α : Type uα} {β : Type uβ}
+  [MeasurableSpace M] [MeasurableSpace N] [MeasurableSpace α] [MeasurableSpace β]
+
+@[to_additive]
+theorem SMulInvariantMeasure_map [SMul M α] [SMul M β]
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Group/Action.lean:114]: This should be names either `SMulInvariantMeasure.map` or `smulInvariantMeasure_map`.

File: Mathlib/MeasureTheory/Group/Action.lean [hunk 19]
```diff
@@ -103,6 +104,36 @@ theorem map_smul : map (c • ·) μ = μ :=
...
+    map f μ ((m • ·) ⁻¹' S)
+    _ = μ (f ⁻¹' ((m • ·) ⁻¹' S)) := map_apply hf <| hS.preimage (measurable_const_smul _)
+    _ = μ ((m • f ·) ⁻¹' S) := by rw [preimage_preimage]
+    _ = μ ((f <| m • ·) ⁻¹' S) := by simp_rw [hsmul]
+    _ = μ ((m • ·) ⁻¹' (f ⁻¹' S)) := by rw [←preimage_preimage]
+    _ = μ (f ⁻¹' S) := by rw [SMulInvariantMeasure.measure_preimage_smul m (hS.preimage hf)]
+    _ = map f μ S  := (map_apply hf hS).symm
+
+@[to_additive]
+theorem SMulInvariantMeasure_map_smul [SMul M α] [SMul N α] [SMulCommClass N M α]
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Group/Action.lean:129]: This should be named either `SMulInvariantMeasure.map_smul` or `smulInvariantMeasure_map_smul`.

File: Mathlib/MeasureTheory/Group/Action.lean [hunk 20]
```diff
@@ -103,6 +104,36 @@ theorem map_smul : map (c • ·) μ = μ :=
...
+    (hsmul : ∀ (m : M) a, f (m • a) = m • f a) (hf : Measurable f) :
+    SMulInvariantMeasure M β (map f μ) where
+  measure_preimage_smul m S hS := calc
+    map f μ ((m • ·) ⁻¹' S)
+    _ = μ (f ⁻¹' ((m • ·) ⁻¹' S)) := map_apply hf <| hS.preimage (measurable_const_smul _)
+    _ = μ ((m • f ·) ⁻¹' S) := by rw [preimage_preimage]
+    _ = μ ((f <| m • ·) ⁻¹' S) := by simp_rw [hsmul]
+    _ = μ ((m • ·) ⁻¹' (f ⁻¹' S)) := by rw [←preimage_preimage]
+    _ = μ (f ⁻¹' S) := by rw [SMulInvariantMeasure.measure_preimage_smul m (hS.preimage hf)]
+    _ = map f μ S  := (map_apply hf hS).symm
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Group/Action.lean:126]: I think this could be made slightly nicer by *not* picking a set `S` and just using the functorial properties of `map`. That seems to require an extra `MeasurableSMul` assumption but I think this is completely harmless. However we would need a bit more API, so I'll just do it in a separate PR once this is merged.

File: Mathlib/MeasureTheory/Group/Measure.lean (hunk 16 above)
Comment (eric-wieser) [reply Mathlib/MeasureTheory/Group/Measure.lean:262]: Which versions are you advocating removing? I think the picture would be clearer here if `IsMulLeftInvariant` and the corresponding `SMulInvariantMeasure` were defeq to each other (though I don't know if that refactor is actually a good idea, and it certainly doesn't belong in this PR).

A point in favor of the intermediate "smul and mul" versions is that we have similar intermediate versions for algebra like `smul_mul_assoc` and `mul_smul_comm`

Comment (ADedecker) [reply Mathlib/MeasureTheory/Group/Measure.lean:262]: What I was suggesting is going straight from `SMulInvariantMeasure_map_smul` to `isMulLeftInvariant_rmul`. But indeed the fact that there is no immediate way to go from `SMulInvariantMeasure` to `IsMulLeftInvariant` is a good enough reason to keep the intermediate step at least for now. 

I'd say we keep them as `def`s, and make the other one `instances`. Does that sound good?

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 21]
```diff
@@ -246,6 +248,27 @@ end MeasurableMul
...
+theorem isMulLeftInvariant_map_smul
+    {α} [SMul α G] [SMulCommClass α G G] [MeasurableSpace α] [MeasurableSMul α G]
+    [IsMulLeftInvariant μ] (a : α) :
+    IsMulLeftInvariant (map (a • · : G → G) μ) :=
+  (forall_measure_preimage_mul_iff _).1 <| fun x _ hs =>
+    (SMulInvariantMeasure_map_smul μ a).measure_preimage_smul x hs
+
+/-- The image of a left invariant measure under right multiplication is left invariant. -/
+@[to_additive isMulLeftInvariant_radd]
+theorem isMulLeftInvariant_rmul [IsMulLeftInvariant μ] (g : G) :
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Group/Measure.lean:266]: `rmul` is not really a standard name, could you use `mul_right` instead?

File: Mathlib/MeasureTheory/Group/Measure.lean (hunk 16 above)
Comment (eric-wieser) [reply Mathlib/MeasureTheory/Group/Measure.lean:262]: Do you mean as `theorem`s?

Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/Measure.lean:262]: I'm not sure I understood, which are you suggesting to make an `instance`?

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 22]
```diff
@@ -761,6 +786,26 @@ theorem isHaarMeasure_map [BorelSpace G] [TopologicalGroup G] {H : Type _} [Grou
...
+  lt_top_of_isCompact K hK := by
+    rw [map_apply (measurable_const_smul _) hK.measurableSet]
+    exact IsCompact.measure_lt_top <| (Homeomorph.isCompact_preimage (Homeomorph.smul a)).2 hK
+  toIsOpenPosMeasure := by
+    refine (continuous_const_smul a).isOpenPosMeasure_map (MulAction.surjective a)
+
+/-- The image of a Haar measure under right multiplication is again a Haar measure. -/
+@[to_additive isHaarMeasure_add_right
+  "The image of a Haar measure under right addition is again a Haar measure."]
+theorem isHaarMeasure_mul_right [BorelSpace G] [TopologicalGroup G] [T2Space G] (g : G) :
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Group/Measure.lean:805]:
```suggestion
@[to_additive isHaarMeasure_map_add_right
  "The image of a Haar measure under right addition is again a Haar measure."]
theorem isHaarMeasure_map_mul_right [BorelSpace G] [TopologicalGroup G] [T2Space G] (g : G) : 
```

File: Mathlib/MeasureTheory/Group/Measure.lean (hunk 16 above)
Comment (ADedecker) [reply Mathlib/MeasureTheory/Group/Measure.lean]: Using the names I suggested below: `smulInvariantMeasure_map_smul`, `isMulLeftInvariant_map_mul_right`, and `isHaarMeasure_map_mul_right`. The idea is to have instances for *smul* invariance of smul, and *mul* invariance of *mul*, does that make sense? 

Btw, I think you missed the suggestion at the beginning of this discussion :wink:

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 23]
```diff
@@ -761,6 +786,26 @@ theorem isHaarMeasure_map [BorelSpace G] [TopologicalGroup G] {H : Type _} [Grou
 #align measure_theory.measure.is_haar_measure_map MeasureTheory.Measure.isHaarMeasure_map
 #align measure_theory.measure.is_add_haar_measure_map MeasureTheory.Measure.isAddHaarMeasure_map
 
+/-- The image of a Haar measure under map of a left action is again a Haar measure. -/
+@[to_additive isHaarMeasure_map_add_right
+"The image of a Haar measure under map of a left additive action is again a Haar measure"]
+theorem isHaarMeasure_map_mul_right {α} [BorelSpace G] [TopologicalGroup G] [T2Space G]
```
[the remark this answers is not in the document]
Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/Measure.lean:792]: whoops!

File: Mathlib/MeasureTheory/Group/Measure.lean (hunk 16 above)
Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/Measure.lean]: Thanks! @ADedecker

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 24]
```diff
@@ -246,6 +248,48 @@ end MeasurableMul
...
+@[to_additive isMulLeftInvariant_map_add_right
+"The image of a left invariant measure under right addition is left invariant."]
+instance isMulLeftInvariant_map_mul_right [IsMulLeftInvariant μ] (g : G) :
+    IsMulLeftInvariant (map (· * g) μ) :=
+  isMulLeftInvariant_map_smul (MulOpposite.op g)
+
+/-- The image of a right invariant measure under left multiplication is right invariant. -/
+@[to_additive isMulRightInvariant_map_add_right
+"The image of a right invariant measure under left addition is right invariant."]
+instance isMulRightInvariant_map_mul_right [IsMulRightInvariant μ] (g : G) :
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Group/Measure.lean:287]:
```suggestion
@[to_additive isMulRightInvariant_map_add_left
"The image of a right invariant measure under left addition is right invariant."]
instance isMulRightInvariant_map_mul_left [IsMulRightInvariant μ] (g : G) :
```

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 25]
```diff
@@ -246,6 +248,48 @@ end MeasurableMul
...
 end Mul
 
+section Semigroup
+
+variable [Semigroup G] [MeasurableMul G]
+
+/-- The image of a left invariant measure under a left action is left invariant, assuming that
+the action preserves multiplication. -/
+@[to_additive "The image of a left invariant measure under a left additive action is left invariant,
+assuming that the action preserves multiplication."]
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Group/Measure.lean:258]:
```suggestion
assuming that the action preserves addition."]
```

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 26]
```diff
@@ -246,6 +248,48 @@ end MeasurableMul
...
+    {α} [SMul α G] [SMulCommClass α G G] [MeasurableSpace α] [MeasurableSMul α G]
+    [IsMulLeftInvariant μ] (a : α) :
+    IsMulLeftInvariant (map (a • · : G → G) μ) :=
+  (forall_measure_preimage_mul_iff _).1 <| fun x _ hs =>
+    (smulInvariantMeasure_map_smul μ a).measure_preimage_smul x hs
+
+/-- The image of a right invariant measure under a right action is right invariant, assuming that
+the action preserves multiplication. -/
+@[to_additive "The image of a right invariant measure under a right additive action is right
+ invariant, assuming that the action preserves multiplication."]
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Group/Measure.lean:269]:
```suggestion
/-- The image of a right invariant measure under a left action is right invariant, assuming that
the action preserves multiplication. -/
@[to_additive "The image of a right invariant measure under a left additive action is right
 invariant, assuming that the action preserves addition."]
```

To be fully precise we would have to say that "preserves multiplication" doesn't mean the same thing here and above, but let's ignore that.

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 27]
```diff
@@ -761,6 +805,26 @@ theorem isHaarMeasure_map [BorelSpace G] [TopologicalGroup G] {H : Type _} [Grou
 #align measure_theory.measure.is_haar_measure_map MeasureTheory.Measure.isHaarMeasure_map
 #align measure_theory.measure.is_add_haar_measure_map MeasureTheory.Measure.isAddHaarMeasure_map
 
+/-- The image of a Haar measure under map of a left action is again a Haar measure. -/
+@[to_additive
+   "The image of a Haar measure under map of a left additive action is again a Haar measure"]
+theorem isHaarMeasure_map_smul {α} [BorelSpace G] [TopologicalGroup G] [T2Space G]
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Group/Measure.lean:811]:
```suggestion
instance isHaarMeasure_map_smul {α} [BorelSpace G] [TopologicalGroup G] [T2Space G]
```

Sorry, forgot about this one.

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 28]
```diff
@@ -761,6 +805,26 @@ theorem isHaarMeasure_map [BorelSpace G] [TopologicalGroup G] {H : Type _} [Grou
...
+    exact IsCompact.measure_lt_top <| (Homeomorph.isCompact_preimage (Homeomorph.smul a)).2 hK
+  toIsOpenPosMeasure := by
+    refine (continuous_const_smul a).isOpenPosMeasure_map (MulAction.surjective a)
+
+/-- The image of a Haar measure under right multiplication is again a Haar measure. -/
+@[to_additive isHaarMeasure_map_add_right
+  "The image of a Haar measure under right addition is again a Haar measure."]
+instance isHaarMeasure_map_mul_right [BorelSpace G] [TopologicalGroup G] [T2Space G] (g : G) :
+    IsHaarMeasure (Measure.map (· * g) μ) := by
+      exact isHaarMeasure_map_smul μ (MulOpposite.op g)
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Group/Measure.lean:826]:
```suggestion
  exact isHaarMeasure_map_smul μ (MulOpposite.op g)
```

**Review by ADedecker — APPROVED** [review]
Could you merge master to make sure that everything still works? Otherwise I think this looks good!

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 29]
```diff
@@ -759,6 +803,26 @@ theorem isHaarMeasure_map [BorelSpace G] [TopologicalGroup G] {H : Type*} [Group
...
+    exact IsCompact.measure_lt_top <| (Homeomorph.isCompact_preimage (Homeomorph.smul a)).2 hK
+  toIsOpenPosMeasure := by
+    refine (continuous_const_smul a).isOpenPosMeasure_map (MulAction.surjective a)
+
+/-- The image of a Haar measure under right multiplication is again a Haar measure. -/
+@[to_additive isHaarMeasure_map_add_right
+  "The image of a Haar measure under right addition is again a Haar measure."]
+instance isHaarMeasure_map_mul_right [BorelSpace G] [TopologicalGroup G] [T2Space G] (g : G) :
+    IsHaarMeasure (Measure.map (· * g) μ) := by
+  exact isHaarMeasure_map_smul μ (MulOpposite.op g)
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Group/Measure.lean:824]:
```suggestion
    IsHaarMeasure (Measure.map (· * g) μ) :=
  isHaarMeasure_map_smul μ (MulOpposite.op g)
```

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 30]
```diff
@@ -759,6 +803,26 @@ theorem isHaarMeasure_map [BorelSpace G] [TopologicalGroup G] {H : Type*} [Group
...
+   "The image of a Haar measure under map of a left additive action is again a Haar measure"]
+instance isHaarMeasure_map_smul {α} [BorelSpace G] [TopologicalGroup G] [T2Space G]
+    [Group α] [MulAction α G] [SMulCommClass α G G] [MeasurableSpace α] [MeasurableSMul α G]
+    [ContinuousConstSMul α G] (a : α) : IsHaarMeasure (Measure.map (a • · : G → G) μ) where
+  toIsMulLeftInvariant := isMulLeftInvariant_map_smul _
+  lt_top_of_isCompact K hK := by
+    rw [map_apply (measurable_const_smul _) hK.measurableSet]
+    exact IsCompact.measure_lt_top <| (Homeomorph.isCompact_preimage (Homeomorph.smul a)).2 hK
+  toIsOpenPosMeasure := by
+    refine (continuous_const_smul a).isOpenPosMeasure_map (MulAction.surjective a)
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Group/Measure.lean:817]:
```suggestion
  toIsOpenPosMeasure :=
    (continuous_const_smul a).isOpenPosMeasure_map (MulAction.surjective a)
```

**Review by ADedecker — COMMENTED** [review]
Thanks! Here are the last few nitpicks, please merge this after fixing them and checking that everything compiles.

bors d+
